US07968570B2
4-[7-Chloro-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester
To a purged (argon) sample of 4-methylene-piperidine-1-carboxylic acid tert-butyl ester (51.6 mg, 0.26 mmol) was added 9-BBN. The mixture was stirred at 60° C. for one hour. After cooling to room temperature this solution was added to 5-bromo-7-chloro-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one (100.0 mg, 0.24 mmol), Pd(dppf)Cl2 (5.9 mg, 0.0072 mmol), DMF (2.0 mL), potassium carbonate 943.1 mg, 0.31 mmol) and water (0.2 mL). The mixture was allowed to stir at 75° C. overnight. The mixture was then cooled to room temperature and poured into water (3 mL). The pH was adjusted to 11 with aqueous sodium hydroxide (3N). The product was extracted with ethyl acetate. The combined organic layers were washed with water three times, brine, dried over sodium sulphate, filtered and concentrated. Column chromatography (30% Ethyl acetate/hexanes) provided the title compound (54.9 mg, 44%).

reactant | 4-methylene-piperidine-1-carboxylic acid tert-butyl ester | 0.26 mmol, 51.6 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=C | C11H19NO2
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | 5-bromo-7-chloro-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 0.24 mmol, 100.0 mg | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10BrClF3NO2
reactant | potassium carbonate | 0.31 mmol, 943.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 3N | [OH-].[Na+]
catalyst | Pd(dppf)Cl2 | 0.0072 mmol, 5.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 3 mL | O | H2O
solvent | water | 0.2 mL | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-[7-Chloro-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindol-5-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | 54.9 mg, 44% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C27H30ClF3N2O4
